*************************************************

* XOR_X1 LUT Sweep (Ttran = 0.5ns)

*************************************************



.include /CMC/setups/ensc450/HSPICE/cmosp18/rules.inc

.LIB '/CMC/setups/ensc450/HSPICE/cmosp18/log018.l' SS



.include "xor_x1.inc"



.option post

.option method=gear

.option reltol=1e-3



.param cload = 0.01p



VVDD vdd 0 1

VGND gnd 0 0



VA A 0 PULSE(0 1 5n 0.5n 0.5n 5n 10n)

VB B 0 PULSE(0 1 0n 0.5n 0.5n 10n 20n)



Xxor A B Z vdd vdd gnd gnd XOR_X1



Cload Z 0 cload



.tran 1p 20n sweep cload 0.01p 0.02p 0.005p



.measure tran tpdf TRIG V(A) VAL=0.5 RISE=1

+ TARG V(Z) VAL=0.5 FALL=1



.measure tran tpdr TRIG V(A) VAL=0.5 FALL=1

+ TARG V(Z) VAL=0.5 RISE=1

.end
