*************************************************

* XOR_X1 LUT Sweep (Ttran = 1ns)

*************************************************



.include /CMC/setups/ensc450/HSPICE/cmosp18/rules.inc

.LIB '/CMC/setups/ensc450/HSPICE/cmosp18/log018.l' SS



.include "xor_x1.inc"



.option post

.option method=gear

.option reltol=1e-3



.param cload = 0.01p



* Power

VVDD vdd 0 1

VGND gnd 0 0



* Inputs (1ns transition)

VA A 0 PULSE(0 1 5n 1n 1n 5n 10n)

VB B 0 PULSE(0 1 0n 1n 1n 10n 20n)



* DUT

Xxor A B Z vdd vdd gnd gnd XOR_X1



* Load sweep 10fF–20fF

Cload Z 0 cload



.tran 1p 20n sweep cload 0.01p 0.02p 0.005p



.measure tran tpdf TRIG V(A) VAL=0.5 RISE=1

+ TARG V(Z) VAL=0.5 FALL=1



.measure tran tpdr TRIG V(A) VAL=0.5 FALL=1

+ TARG V(Z) VAL=0.5 RISE=1



.measure tran leak_pow AVG I(VVDD) FROM=1n TO=4n

.measure tran dyn_pow  AVG I(VVDD) FROM=5n TO=8n



.end
