*************************************************

* XOR_X4 LUT Sweep (Ttran = 0.5ns)

*************************************************



.include /CMC/setups/ensc450/HSPICE/cmosp18/rules.inc

.LIB '/CMC/setups/ensc450/HSPICE/cmosp18/log018.l' SS



.include "xor_x4.inc"



.option post

.option method=gear

.option reltol=1e-3



.param cload = 0.02p



* Power

VVDD vdd 0 1

VGND gnd 0 0



* Inputs (0.5ns transition)

VA A 0 PULSE(0 1 5n 0.5n 0.5n 5n 10n)

VB B 0 PULSE(0 1 0n 0.5n 0.5n 10n 20n)



* DUT

Xxor A B Z vdd vdd gnd gnd XOR_X4



* Load sweep 20fF–80fF

Cload Z 0 cload



.tran 1p 20n sweep cload 0.02p 0.08p 0.02p



.measure tran tpdf TRIG V(A) VAL=0.5 RISE=1

+ TARG V(Z) VAL=0.5 FALL=1



.measure tran tpdr TRIG V(A) VAL=0.5 FALL=1

+ TARG V(Z) VAL=0.5 RISE=1



.measure tran leak_pow AVG I(VVDD) FROM=1n TO=4n

.measure tran dyn_pow  AVG I(VVDD) FROM=5n TO=8n



.end
